US06022976
a) 1-Chloro-2-bromo-4-nitrobenzene
Iron (0.35 g) was added to 1chloro-4-nitrobenzene (15.8 g) at 140° C., bromine (2.8 ml) was added dropwise and the mixture heated to 140° C. for 1 hour. Two further additions of iron and bromine were made at 1 hour intervals followed by a final addition of iron (0.07 g) and heating to 140° C. for 1 hour. The reaction mixture was allowed to cool to room temperature, added to sodium metabisulfite solution (200 ml) and stirred for 30 min. The solution was extracted with dichioromethane (×4), washed with aqueous sodium metabisulfite and water then dried (MgSO4) to give an oil which was used in the next step without further purification.

reactant | 1chloro-4-nitrobenzene | 15.8 g | ClC1=CC=C(C=C1)[N+](=O)[O-] | C6H4ClNO2
reactant | bromine | 2.8 ml | BrBr | Br2
catalyst | Iron | 0.35 g | [Fe] | Fe
catalyst | iron | 0.07 g | [Fe] | Fe
solvent | sodium metabisulfite | 200 ml | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
product | 1-Chloro-2-bromo-4-nitrobenzene | ClC1=C(C=C(C=C1)[N+](=O)[O-])Br | C6H3BrClNO2
